US09120805B2
4-Fluoro-1H-pyrrole-2-carboxylic acid ethyl ester (1.07 g; 6.83 mmol) and 1-{4-[4-(2-bromo-acetyl)-phenyl]-piperidin-1-yl}-2,2,2-trifluoro-ethanone (2.00 g; 5.26 mmol) are dissolved in acetone (20 ml). To this clear brown solution potassium carbonate (1.45 g; 10.51 mmol) is added and the reaction mixture is stirred at ambient temperature over night. The reaction mixture is diluted with acetone, filtered off by suction and washed with acetone. The filtrate is evaporated to dryness. The crude product is purified by flashchromatography to afford 4-fluoro-1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carboxylic acid ethyl ester as off-white solid; HPLC/MS 2.67 min (A), [M+H] 455.

reactant | 4-Fluoro-1H-pyrrole-2-carboxylic acid ethyl ester | 6.83 mmol, 1.07 g | C(C)OC(=O)C=1NC=C(C1)F | C7H8FNO2
reactant | 1-{4-[4-(2-bromo-acetyl)-phenyl]-piperidin-1-yl}-2,2,2-trifluoro-ethanone | 5.26 mmol, 2.00 g | BrCC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C15H15BrF3NO2
reactant | potassium carbonate | 10.51 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-fluoro-1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1)F)CC(C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O)=O | C22H22F4N2O4
